US04249936
1.84 g of tert-butyl hypochlorite was added dropwise to a solution of 3.69 g of the benzyl ester of 2-carboxy-3-azabicyclo(3.1.0)-hexane, containing 84% of trans isomer, in 70 ml of dry diethyl ether at 0° to 5° C. under nitrogen. The solution was stirred at 0° to 5° C., in the dark, for 15 minutes, then 5 ml of freshly-distilled triethylamine was added. The suspension was stirred at room temperature for 2 days, and was then concentrated by evaporation. The residue was shaken with 500 ml of diethyl ether and 25 ml of water, and the ether layer was separated, washed with 25 ml of water, dried over sodium sulfate and the solvent was evaporated. The residue was purified chromatographically to give 2.3 g of 2-benzyloxycarbonyl-3-azabicyclo(3.1.0)hex-2-ene. The identity of the product was confirmed by elemental analysis and IR spectrum analysis.

reactant | tert-butyl hypochlorite | 1.84 g | ClOC(C)(C)C | C4H9ClO
reactant | 2-carboxy-3-azabicyclo(3.1.0)-hexane | C(=O)(O)C1C2CC2CN1 | C6H9NO2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | 70 ml | C(C)OCC | C4H10O
product | 2-benzyloxycarbonyl-3-azabicyclo(3.1.0)hex-2-ene | 2.3 g | C(C1=CC=CC=C1)OC(=O)C=1C2CC2CN1 | C13H13NO2
